US07148229B2
A solution of 2-(5-amino-pyridin-2-yl)-malonic acid dibenzyl ester in pyridine cooled to 0° C. was treated with 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonyl chloride. The reaction mixture was allowed to slowly warm to 25° C. and was stirred at 25° C. for 24 h. At this time, the reaction mixture was cooled to 0° C. and acidified to pH=1 with 3.0M aqueous hydrochloric acid solution. The resulting mixture was extracted with ethyl acetate. The organics were washed with a 1.0M aqueous hydrochloric acid solution, water, and a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 65/35 ethyl acetate/hexanes) afforded 2-[5-(5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonylamino)-pyridin-2-yl]-malonic acid dibenzyl ester (55%) as a colorless solid; LRMS for C27H25ClN4O6S (M+H)+ at m/z=569/571.

reactant | 2-(5-amino-pyridin-2-yl)-malonic acid dibenzyl ester | C(C1=CC=CC=C1)OC(C(C(=O)OCC1=CC=CC=C1)C1=NC=C(C=C1)N)=O | C22H20N2O4
reactant | 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonyl chloride | ClC1=C(C(=NN1C)C)S(=O)(=O)Cl | C5H6Cl2N2O2S
reactant | hydrochloric acid | 3.0M | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[5-(5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonylamino)-pyridin-2-yl]-malonic acid dibenzyl ester | 55% | C(C1=CC=CC=C1)OC(C(C(=O)OCC1=CC=CC=C1)C1=NC=C(C=C1)NS(=O)(=O)C=1C(=NN(C1Cl)C)C)=O | C27H25ClN4O6S
